* /Users/TylerMatthews/Dropbox/Classes/Current/Electronic Design/Audio Amplifier/Entire Designs/DifferPairWithActiveLoading.asc
Q3 N006 N013 N015 0 2N3904
Q4 N005 N014 N015 0 2N3904
Q5 N005 N011 N014 0 2N3904
Q6 N006 N009 N013 0 2N3904
Vdc2 N002 0 9
C3 N009 N008 100µ
Vsig2 N016 0 SINE(0 30m 200) AC 1
R8 N002 N009 50k
R9 N009 0 50k
C4 N012 N011 100µ
R10 N002 N011 100k
R§1k N011 0 100k
R12 N008 N016 50
Q7 N015 N017 0 0 2N3904
D5 N017 0 1N914
R16 N002 N017 400
Q1 N006 N004 N002 0 PNP
Q2 N005 N004 N002 0 PNP
Q8 0 N006 N004 0 PNP
Rl OutPut 0 8
C1 OutPut N007 1000µ
R6 N007 0 100
Q9 N002 N005 N007 0 2N3904
Rset OutPut N012 1k
R4 0 N012 100
Q10 N002 N005 N007 0 2N3904
.model D D
.lib /Users/TylerMatthews/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/TylerMatthews/Library/Application Support/LTspice/lib/cmp/standard.bjt
.tran .01
* .ac dec 10 10 25k
* Negative Gain Stage. Stops the gain stage from hitting the rails with high input voltages&Doesnt appear to be a good solution
* Differential Pair With Active Loading Amplifier&.Gain of 30+ Dbs
* Class A Output Stage Designed To Drive 8 Ohm Load
* Testing Commands\nTran for transient response\nAC for small signal AC gain
.backanno
.end
